Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
MVC, GSW to head 
 
Major Surgical or Invasive Procedure:
___: Emergent right craniotomy
 
History of Present Illness:
EU Critical, ___ (AKA ___, DOB ___ is a ___ 
year-old male transferred to ___ ED from scene via medflight. 
Per EMS report, patient was the driver of a vehicle that 
collided into a roadside barrier. He was found unresponsive on 
scene, and given Narcan for presumed overdose, given the 
appearance of fresh track marks on his arm. He quickly became 
agitated and combative. His pupils were 6mm with left gaze 
deviation noted. His blood
glucose was 12 and he was given D10 with appropriate response. 
He was intubated on scene for persistent agitation, subsequently 
boarded and collared. He received Succinylcholine, Ketamine, and 
Vecuronium for intubation (last dose ___). 

During this time, EMS noted the appearance of a gunshot wound to 
the right occiput. The circumstances surrounding this injury are 
unknown. En route, he received Fentanyl, Dilantin, and Ancef. In 
the ___ ED, he was evaluated by Trauma Surgery and found to 
have no additional systemic injuries. Unable to obtain 
additional history from patient given extent of injuries. 

 
Past Medical History:
IVDU, Depression
 
Social History:
___
Family History:
NC
 
Physical Exam:
=============================
EXAM UPON ADMISSION:
=============================

PHYSICAL EXAM: 
O: BP: 106/65    HR: 69      RR: 16     O2Sat: 100% vent

General: Thin male, lying on stretcher, intubated. Track marks
noted on left arm. 
HEENT: Single bullet wound to right occiput, 3cm superior and
posterior to right auricle. Scant amount of bone matter, no
active hemorrhage. No brain matter noted. Right periorbital
ecchymosis. 
Neck: C-Collar in place. 

Neuro:
Unresponsive to verbal and noxious stimuli. 
Pupils 4mm, reactive bilaterally. No gaze deviation.
No corneal reflex bilaterally. 
No motor movement to noxious. 

=============================
EXAM ON PRONOUNCIATION:
=============================
Patient does
not respond to verbal or tactile stimuli. Pupils 6mm fixed and
non-reactive. Carotid pulses absent. No heart sounds. No
spontaneous respirations. Extremities warm. Exam consistent with
death. Patient pronounced at 19:32 on ___. 
 
Pertinent Results:
CT Head:
1. Innumerable bullet fragments within the parietal and 
occipital
lobes bilaterally.  Two dominant bullet fragments measure 8 mm 
in
the left parietal lobe, and 13 mm in the left occipital scalp. 
2. Extensive intraparenchymal hemorrhage along the tract of the
bullet fragments. 
3. 7 mm left frontoparietal subdural hematoma. 
4. Right frontoparietal subarachnoid hemorrhage. 
5. Posterior cerebral edema with approximately 2-3mm leftward
shift of midline structures.  No transtentorial herniation. 
6. Asymmetrical size of the lateral ventricles, right larger 
than
left. 
7. Bilateral nondisplaced parietal bone fractures, extending to
the temporal bone on the right, and the occipital bone on the
left. 

 
Brief Hospital Course:
On ___, The patient arrived to ___ ED via MedFlight after 
___. He was reportedly unresponsive at scene, given Narcan, 
became agitated and combative. He was intubated, and prepared 
for transport. While in the field, EMS noted a bullet wound at 
right occiput. Upon arrival to ___, the patient was taken to 
the OR emergently for a right craniotomy. Intra-operatively, a 
significant sinus injury was noted with significant blood loss. 
The patient was resuscitated in the OR twice, however further 
intervention was deemed futile. The craniotomy flap was closed, 
and the patient transitioned to the TSICU. The NEOB was 
notified. The family was made aware of futility, and expressed 
their wish to proceed with organ donation if patient is a 
candidate.

On ___, in the morning the patient remained intubated.  Later 
in the day he was made CMO and extubated. The team was later 
called by the ___ resident for death pronouncement. Upon exam, 
the patient did not respond to verbal or tactile stimuli. Pupils 
were 6mm fixed and non-reactive. Carotid pulses were absent. No 
heart sounds auscultated. No spontaneous respirations were 
appreciated. Extremities warm. Exam deemed consistent with 
death. The patient was pronounced at 19:32 on ___. The 
patient's mother and father were present at the bedside and 
declined an autopsy. The ME office was notified, however the 
case was accepted by Dr. ___ for autopsy. ___ 
MD, Dr. ___ was notified as well. 
 
Medications on Admission:
unknown
 
Discharge Medications:
deceased
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Gunshot wound to right occiput
 
Discharge Condition:
deceased
 
Discharge Instructions:
deceased
 
Followup Instructions:
___